US04145559
Phosphorus trichloride (6.85 g.) is added dropwise and continuously to a stirred solution containing 30.4 g. of di-n-propylamine dissolved in 100 ml. of hexane at 10° C. After complete addition, the reaction mixture is allowed to stir 1 hour at room temperature. Sufficient water (75 ml.) is then added to dissolve the amine salt formed, and the organic layer is separated. The organic layer is washed once with 75 ml. of water. Methyl methacrylate (1000 g.) and 2 g. of the methyl ether of hydroquinone are added to the organic layer and heated to 65° C. To this stirred solution, 276 g. of 2-ethylhexyl acrylate is added dropwise over 8 to 10 hours. After a total of 24 hours at 65° C., the hexane and unconverted esters are removed via distillation. The residue is distilled to give 200 g. of 2-ethylhexyl 2-methylene-4-carbomethoxypentanoate, b.p. 120°-125° C./0.1 mm, nD25 = 1.4452-1.4463 and 164 g. of di-2-ethylhexyl glutarate, b.p. 150°-155° C./0.1 mm, nD25 = 1.4513. The 2-ethylhexyl 2-methylene-4-carbomethoxypentanoate is saponified to give 2-methylene-4-methylglutaric acid having a melting point of 106° to 108° C. and an acid number of 727. This product is further identified by elemental analysis and nmr spectroscopy.

reactant | Phosphorus trichloride | 6.85 g | P(Cl)(Cl)Cl | Cl3P
reactant | di-n-propylamine | C(CC)NCCC | C6H15N
reactant | hexane | CCCCCC | C6H14
reactant | 2-ethylhexyl 2-methylene-4-carbomethoxypentanoate | C=C(C(=O)OCC(CCCC)CC)CC(C)C(=O)OC | C16H28O4
solvent | water | 75 ml | O | H2O
product | 2-methylene-4-methylglutaric acid | C=C(C(=O)O)CC(C(=O)O)C | C7H10O4
